US07081454B2
2-(4-Iodo-2-methoxy-pyridin-3-yl)-4-methyl-6-morpholin-4-yl-1H-benzoimidazole:
2-Methyl-4-morpholin-4-yl-6-nitro-phenylamine (15.2 g, 64 mmol) was suspended in methanol (200 ml) in a PARR flask. Palladium on carbon (1.0 g, 10% Pd) was added and the suspension shaken under 60 psi of hydrogen overnight. The mixture was filtered through a pad of celite (under argon) into a 3-neck flask, the celite rinsed with methanol and the filtrate diluted with methanol to a total volume of 500 ml and cooled to 0° C. A solution of 4-Iodo-2-methoxy-pyridine-3-carbaldehyde (14.6 g, 55.5 mmol) in methanol (500 ml) was added slowly (during 3 hours). After addition of ˜¼ of the solution the system was opened to air and stirred over the weekend, thereby reaching room temperature. The reaction mixture was concentrated in vacuo, filtered through a pad of silica (eluent: methylenechloride-ethyl acetate-methanol 55-40-5) then crystallized from ethyl acetate. The title compound was isolated as brown solid (12.68 g, 51%). Flash column chromatography of the mother liquor (gave additional 2.90 g (12%). [pack column with methylene chloride, elute compound with methylene chloride-ethyl acetate 6-4, then methylenechloride-ethyl acetate-methanol 58-40-2]. LCMS (M+H)+ m/z 451 (t=1.03 min.). 1H NMR (500 MHz, CDCl3) δ 7.76 (1H, d, J=5.3 Hz),), 7.42 (1H, d, J=5.3 Hz), 6.85 (1H, broad s), 6.82 (1H, s), 3.86 (4H, t, J=4.5 Hz), 3.79 (3H, s), 3.12 (4H, t, J=4.5 Hz), 2.60 (3H, s), 2.21 (3H, s).

reactant | 2-Methyl-4-morpholin-4-yl-6-nitro-phenylamine | 64 mmol, 15.2 g | CC1=C(C(=CC(=C1)N1CCOCC1)[N+](=O)[O-])N | C11H15N3O3
reactant | hydrogen | [H][H] | H2
reactant | 4-Iodo-2-methoxy-pyridine-3-carbaldehyde | 55.5 mmol, 14.6 g | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
solvent | methanol | 200 ml | CO | CH4O
catalyst | Palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 500 ml | CO | CH4O
product | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-4-methyl-6-morpholin-4-yl-1H-benzoimidazole | IC1=C(C(=NC=C1)OC)C1=NC2=C(N1)C=C(C=C2C)N2CCOCC2 | C18H19IN4O2
